US04657893
To a solution of 200 mg 2-methylamino-5-methyl-4H-3,1-benzoxazin-4-one, prepared as described in Example I, above, in 20 ml of dry tetrahydrofuran, was added 3 ml of acetic anhydride, 3 ml of pyridine and 25 mg of dimethylaminopyridine. The solution was stirred at room temperature for 3 days. The solvent was removed under reduced pressure, and remaining trace amounts of acetic anhydride and pyridine were removed by azeotroping with toluene. The residue was purified by column chromatography over silica gel (10% ethyl acetate:petroleum ether, 30°-60° C.) to yield 210 mg of 2-(N-methylacetylamino)-5-methyl-4H-3,1-benzoxazin-4-one, m.p. 108°-109° C., 'H NMR: (delta CDCl3); 2.6 (s, 3H, CH3 -Ar), 2.8 (s, 3H, CH3), 3.4 (s, 3H, NMe), 7.1-7.8 (m, 3H, Ar-H); IR: 1765, 1690, 1640, 1620, 1600 cm-1.

reactant | 2-methylamino-5-methyl-4H-3,1-benzoxazin-4-one | 200 mg | CNC1=NC2=C(C(O1)=O)C(=CC=C2)C | C10H10N2O2
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethylaminopyridine | 25 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(N-methylacetylamino)-5-methyl-4H-3,1-benzoxazin-4-one | 210 mg | CCC(=O)NC1=NC2=C(C(O1)=O)C(=CC=C2)C | C12H12N2O3
